US08044052B2
tert-Butyl 4-(4-methyl-3-(5-(trifluoromethyl)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate
To a solution of 4-methyl-3-(5-(trifluoromethyl)pyridin-2-yloxy)phenylboronic acid (1.13 g, 0.0038 mol) and tert-butyl 4-(bromomethylene)piperidine-1-carboxylate (871 mg, 0.006 mol) in THF (10.5 mL) was added K3PO4 (2.43 g, 0.011 mol). The flask was put under vacuum and flushed with N2 three times. Water (0.19 mL) was added and the system was flushed with N2 again. PdCl2(dppf) (310 mg, 0.0004 mol) was added and the system was flushed with N2 two to three times again. The reaction mixture was refluxed at 50° C. for 1 h. The reaction mixture was concentrated, diluted with water and extracted with EtOAc. The organic extract was washed with brine, dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by column chromatography (2.5% EtOAc-97.5% Hexane) to give the pure title compound (0.50 g). 1H NMR (500 MHz, CDCl3): δ 8.42 (s, 1H), 7.90 (dd, J=2.25 Hz, J=8.75 Hz, 1H), 7.24 (d, J=8.0 Hz, 1H), 7.03-6.98 (m, 2H), 6.89 (s, 1H), 6.31 (s, 1H), 3.49 (t, J=5.0 Hz, 2H), 3.40 (t, J=5.5 Hz, 2H), 2.47 (t, J=5 Hz, 2H), 2.30 (s, 3H), 2.13 (s, 3H), 1.46 (s, 9H).

reactant | 4-methyl-3-(5-(trifluoromethyl)pyridin-2-yloxy)phenylboronic acid | 0.0038 mol, 1.13 g | CC1=C(C=C(C=C1)B(O)O)OC1=NC=C(C=C1)C(F)(F)F | C13H11BF3NO3
reactant | tert-butyl 4-(bromomethylene)piperidine-1-carboxylate | 0.006 mol, 871 mg | BrC=C1CCN(CC1)C(=O)OC(C)(C)C | C11H18BrNO2
reactant | K3PO4 | 0.011 mol, 2.43 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | THF | 10.5 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 0.0004 mol, 310 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-Butyl 4-(4-methyl-3-(5-(trifluoromethyl)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate | 0.50 g | CC1=C(C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=C1)OC1=NC=C(C=C1)C(F)(F)F | C24H27F3N2O3
